data/mechanisms/records/IMS8-EQ8.6.json
{"mechanism_id": "IMS8-EQ8.6", "species": [{"species_id": "vinylcyclohexene_molecular_ion", "mapped_smiles": "[CH:2]1([CH:1]=[CH2:8])[CH2:3][CH2:4][CH+:5][CH:6][CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "symmetric_ring_opened_distonic_radical_cation", "mapped_smiles": "[CH2:8]=[CH:1][CH:2][CH2:3][CH2:4][CH+:5][CH:6]=[CH2:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butadiene_radical_cation", "mapped_smiles": "[CH2:4][CH+:5][CH:6]=[CH2:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "butadiene_neutral_loss", "mapped_smiles": "[CH2:8]=[CH:1][CH:2]=[CH2:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["vinylcyclohexene_molecular_ion"]}, {"state_id": "state_intermediate", "species_ids": ["symmetric_ring_opened_distonic_radical_cation"]}, {"state_id": "state_products", "species_ids": ["butadiene_radical_cation", "butadiene_neutral_loss"]}], "steps": [{"step_id": "step_alpha1_ring_opening", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha2_charge_retention", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha1_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 143, "equation": "8.6", "figure": null, "panel": null, "section": "8.2 Product stability (stepwise retro-Diels-Alder of the 4-vinylcyclohexene molecular ion)"}, "confidence": 0.85, "curator_note": "First alpha-cleavage (ring opening) of the stepwise retro-Diels-Alder of the 4-vinylcyclohexene molecular ion (C8H12+., m/z 108) -- the vinyl analog of eq 4.31/4.32 (R = vinyl instead of R = phenyl). ARC COUNT: the book draws 0 reaction fishhooks for this step; the precursor is drawn as the [M]+. bracket (top-left) and the step is indicated ONLY by the alpha-labelled straight arrow. All three moves <1,2,3> are implicit, required for electron balance (not drawn on the page). Move <1> = the odd electron on the pi-ionized ring alkene carbon (map 6) into the forming C6=C7 pi bond; move <2> = one electron of the breaking C2-C7 ring sigma bond into that same forming pi bond; move <3> = the other electron of the C2-C7 bond onto the R-bearing carbon (map 2), its new (allylic) radical site. LOCALIZATION (convention B/C): the text states 'the ring double bond is the ionization site (IE = 8.9 eV, compared with 9.6 eV for the [isolated double bond])', so the radical cation is localized on the two former sp2 RING carbons as C5(+)-C6(.); the neutral C=C of 4-vinylcyclohexene sat between maps 5 and 6. R = vinyl: map 1 = the CH= carbon attached to the ring (map 2), map 8 = the terminal =CH2."}, {"evidence_id": "evidence_step_alpha2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha2_charge_retention", "support_type": "textbook_proposed", "locator": {"page": 143, "equation": "8.6", "figure": null, "panel": null, "section": "8.2 Product stability (second alpha-cleavage of the symmetric open-ring intermediate)"}, "confidence": 0.85, "curator_note": "Second alpha-cleavage on the symmetric ring-opened distonic radical cation: the allylic radical (map 2) drives cleavage of the central C3-C4 bond, giving 1,3-butadiene radical cation (m/z 54) + neutral 1,3-butadiene. ARC COUNT: the book draws 0 reaction fishhooks for this step; the intermediate is drawn as TWO resonance forms joined by the identity/resonance sign (triple-bar), collected by a brace, and the step is indicated ONLY by the alpha-labelled arrow down to products (a)/(b). The curved arcs visible ON the intermediate (one arc + '+' at each left end, one arc + '.' at each right end, drawn in BOTH resonance forms) are allyl-delocalization (resonance) arrows, NOT this step's electron flow. All three moves <1,2,3> are implicit, required for electron balance (not drawn on the page). Move <1> = odd electron (map 2) into the forming C2=C3 pi bond; move <2> = one C3-C4 sigma electron into that same pi bond; move <3> = the other C3-C4 sigma electron onto map 4 (new radical of the departing diene ion). PRODUCTS (a)/(b): the page draws two butadiene radical-cation forms with 'or' between them -- (a) s-cis and (b) s-trans 1,3-butadiene+. (equivalently the endocyclic- vs exocyclic-derived diene ion); for the unsubstituted, symmetric parent both are the same species C4H6+. (m/z 54), so charge-retention and charge-migration channels coincide. This record encodes the C4-C7 (endocyclic-diene) fragment as the ion; the C8/C1/C2/C3 (vinyl+two-ring-carbon) fragment leaves as neutral butadiene. RESONANCE (convention C): the ion is the delocalized butadiene radical cation; it is written here in one localized distonic form, .CH2-CH(+)-CH=CH2 (radical map 4, charge map 5). NO relative intensity is printed for this ion on p.143 (the quantitative data appear as ln([Ar+]/[C4H4+.]) vs IE in Figure 8.3, not as a % on the scheme), so relative_intensity is omitted."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 108.0934, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_54", "species_id": "butadiene_radical_cation", "step_id": "step_alpha2_charge_retention", "observed_mz": 54.0464, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
